US06262103B1
Step 1: 6,6-Dimethyl-3-methanesulphinyl-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one
6,6-Dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one (200 mg, 0.66 mmol) was dissolved in CH2Cl2 (20 mL) and cooled to −78° C. Meta-chloroperoxybenzoic acid (82 mg of 70% (w/w); 0.66 mmol) was dissolved in CH2Cl2 (5 mL) and added dropwise to the solution, which was allowed to stir at −50° C. for 1 h, then warmed to room temperature. The mixture was diluted with dichloromethane and washed with saturated sodium hydrogen carbonate solution, water and brine. After drying (Na2SO4), the solution was evaporated to dryness and the residue was purified by chromatography on silica gel, eluting with ethyl acetate:hexane (1:1). The title compound was isolated as a white solid (160 mg, 79%). 1HNMR (360 MHz, CDCl3)δ 1.08 (3H, s), 1.11 (3H, s), 2.43 (1H, d, J=18 Hz), 2.53 (1H, d, J=18 Hz), 3.00 (3H, s), 3.03 (2H, s), 7.24-7.28 (1H, m), 7.52-7.54 (1H, m), 7.76-7.80 (1H, m), 8.64-8.66 (1H, m). MS (ES+) 320 (M+1).

reactant | 6,6-Dimethyl-3-methylthio-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | 0.66 mmol, 200 mg | CC1(CC(C=2C(=C(SC2SC)C2=NC=CC=C2)C1)=O)C | C16H17NOS2
reactant | Meta-chloroperoxybenzoic acid | 0.66 mmol, 82 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6,6-Dimethyl-3-methanesulphinyl-1-(pyrid-2-yl)-4,5,6,7-tetrahydrobenzo[c]thiophen-4-one | CC1(CC(C=2C(=C(SC2S(=O)C)C2=NC=CC=C2)C1)=O)C | C16H17NO2S2
